US07119209B2
4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (11.3 g, 51.9 mmol), 4-morpholinopiperidine (15.0 g, 88.2 mmol), 5-fluorooxindole (7.84 g, 51.9 mmol), and THF (126 ml) were mixed and heated to 66° C. After stirring for 68 h at 66° C., the mixture was cooled to room temperature and filtered. The cake was washed with 4×20 ml THF and dried overnight at 70° C. under house vacuum. (3Z)-3-({3,5-dimethyl-4-[(4-morpholin-4-ylpiperidin-1-yl)carbonyl]-1H-pyrrol-2-yl}methylene)-5-fluoro-1,3-dihydro-2H-indol-2-one 16.09 g was obtained in 68% yield.

reactant | 4-(1H-imidazol-1-ylcarbonyl)-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 51.9 mmol, 11.3 g | N1(C=NC=C1)C(=O)C=1C(=C(NC1C)C=O)C | C11H11N3O2
reactant | 4-morpholinopiperidine | 88.2 mmol, 15.0 g | O1CCN(CC1)C1CCNCC1 | C9H18N2O
reactant | 5-fluorooxindole | 51.9 mmol, 7.84 g | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
solvent | THF | 126 ml | C1CCOC1 | C4H8O
product | (3Z)-3-({3,5-dimethyl-4-[(4-morpholin-4-ylpiperidin-1-yl)carbonyl]-1H-pyrrol-2-yl}methylene)-5-fluoro-1,3-dihydro-2H-indol-2-one | 16.09 g, 68% yield | CC1=C(NC(=C1C(=O)N1CCC(CC1)N1CCOCC1)C)\C=C\1/C(NC2=CC=C(C=C12)F)=O | C25H29FN4O3
